2111-01-06 07:27:00 Physician Resident Progress Note
Chief Complaint: 4 days of dark red blood per rectum
   24 Hour Events:
   ADMITTED
   Rec
d 2 units PRBC
s and platlets
   Bolused 250cc
s times 2 for low urine output
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: There are no changes to the
   medical and family history
   Review of systems is unchanged from admission except as noted below
   Review of systems: There are no changes to the review of systems.
   Flowsheet Data as of  [**2111-1-6**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 68 (68 - 90) bpm
   BP: 115/80(88) {109/59(72) - 120/80(88)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    436 mL
                                                                    848 mL
   PO:
           TF:
   IVF:
   250 mL
   Blood products:
                                                                    436 mL
                                                                    598 mL
   Total out:
                                                                      0 mL
                                                                     50 mL
   Urine:
   50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    436 mL
                                                                    798 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   HEENT: conjunctiva pale, sclera anicteric, MM moist, no thrush
   Neck: supple, no lymphadenopathy, no bruits
   Cardiac: regular rate and rhythm, normal s1 and s2, no murmurs, rubs,
   gallops
   Lungs: decreased breath sounds throughout, no wheezes, rales, ronchi
   Gastrointestinal: soft, non-tender, non-distended, +BS, no
   organomegaly, rectal from ER with dark blood, no fissures, no
   hemorrhoids, grossly guaiac positive
   Ext: warm and well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Skin: petichae on dorsal hands and feet bilaterally
   Neurologic: Alert, oriented, no distress, PERRL, EOMI, facial movements
   symmetric, strength 4/5 in upper and lower extremity on the right and
   [**6-2**] on the left.  Sensation intact to light touch.  Gait not tested.
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   66 year old female h/o SMLC metastatic to brain and liver (s/p whole
   brain XRT, one cycle of palliative etoposide and cisplatin) with dark
   blood per rectum for four days.
   Gastrointestinal Bleeding:  Patient describes dark blood mixed with
   stool without melena.  Differential diagnosis includes lower
   gastrointestinal bleeding versus brisk upper GI bleed which seems
   unlikely given hemodynamic stability.  NG lavage not performed in ER
   secondary to thrombocytopenia and given stability will defer for now.
   In terms of lower gastrointestinal sources, could represent bleeding
   AVM in the setting of thrombocytopenia vs mucosal damage secondary to
   chemotherapy vs diverticulosis vs. others. For now will maintain IV
   access with two large bore peripheral IVs.  Although low suspicion for
   upper GI source will continue IV PPI [**Hospital1 **].  She has now received one
   unit of platelets and will receive two units of blood overnight.  If
   bleeding has ceased may defer further workup given known metastatic
   cancer and thrombocytopenia.  If persistent bleeding would need to
   persue endoscopic evaluation vs. tagged red blood cell scan if bleeding
   becomes more brisk.
   - two large bore IVs
   - IV PPI [**Hospital1 **]
   - NPO in case requires endoscopic procedure
   - two units of blood overnight
   - IVF boluses for MAPs < 65 or UOP < 50 cc/hr
   - holding home antihypertensives currently
   Thrombocytopenia: Patient has had worsening thrombocytopenia over the
   past month thought to be secondary to her chemotherapy.  Also concern
   for medication induced cause which prompted recent switch from dilantin
   to keppra.  She is not receiving heparin products currently and
   recently had negative HIT workup.  Concern that she may also have
   marrow involvement of her malignancy.
   - repeat platelet count post-transfusion
   - goal > 20
   - will need to consider bone marrow biopsy if no improvement
   Leukocytosis:  Likely secondary to dexamethasone.  No signs or symptoms
   of infection at present.
   - culture if spikes
   - no antibiotics
   - trend white blood cell count
   Small Cell Lung Cancer:  As above with known metastases to brain and
   liver diagnosed in [**2110-10-29**] s/p whole brain XRT and 1 cycle of
   palliative chemotherapy with etoposide and cisplatin.  She was
   scheduled to receive a second round of chemotherapy this week but this
   was deferred secondary to her thrombocytopenia.
   - oncology will see today
   - continue dexamethasone 4 mg [**Hospital1 **]
   - continue keppra for seizure prophylaxis in the setting of known brain
   metastases
   Anxiety: Stable.
   - continue alprazolam QHS:PRN
   Hypertension:
   - holding home antihypertensives
   Hyperglycemia: Glucose on chem 7 in ER elevated at 207.  Likely
   secondary to dexamethasone.
   - insulin sliding scale while in ICU
   FEN: NPO for now, monitor electrolytes, IVF boluses for MAP < 65, UOP <
   50 cc/hr
   Prophylaxis: pneumoboots, pantoprazole
   Access: 2 18 g peripheral IVs
   Code: Full
   Contact: [**Name (NI) 306**] (daughter) [**Telephone/Fax (1) 2714**] [**Name (NI) 2255**] (son) [**Telephone/Fax (1) 2715**]
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-5**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-01-07 11:24:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, thrombocytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient readmitted to MICU because of two episodes of blood per rectum
   associated with tachycardia; transfused without improvement in hct
   Transferred to ICU. Blood transfusions initiated. Patient also received
   bag of platelets with improved count.  HR improved. Patient denies
   dyspnea, dizziness, lightheadedness.
   24 Hour Events:
                                                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-1-7**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-7**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 83 (70 - 89) bpm
   BP: 120/58(74) {92/44(56) - 134/74(85)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,975 mL
                                                                    128 mL
   PO:
           TF:
   IVF:
                                                                  1,250 mL
                                                                     10 mL
   Blood products:
                                                                    725 mL
                                                                    118 mL
   Total out:
                                                                  1,450 mL
                                                                      0 mL
   Urine:
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : Few, scattered rales, No(t)
   Bronchial: , Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   43 K/uL
   137 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.0 mEq/L
   39 mg/dL
   103 mEq/L
   135 mEq/L
   23.0 %
   14.4 K/uL
        [image002.jpg]
                             [**2111-1-6**]  06:12 AM
                             [**2111-1-6**]  12:50 PM
                            [**2111-1-7**]  05:45 AM
                            [**2111-1-7**]  07:09 AM
   WBC
   18.3
   16.7
   14.4
   Hct
   24.8
   24.1
   24.0
   23.0
   Plt
   29
   19
   54
   43
   Cr
   1.0
   Glucose
   137
   Other labs: PT / PTT / INR:13.1/17.5/1.1, ALT / AST:64/141, Alk Phos /
   T Bili:100/0.8, LDH:4350 IU/L, Ca++:9.2 mg/dL, Mg++:1.6 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ANEMIA
   THROMBOCYTOPENIA
   LUNG CA
   Patient with recurrent bleeding with mostly dark blood/maroon stool per
   rectum. Picture now becoming more suggestive of lower GI source.
   Patient to have upper endoscopy now. If negative, will pursue a tagged
   RBC scan to assess for ongoing lower GI bleeding.
   Patient being transfused now. [**Month (only) 11**] need additional fluids as well.
   Pre-renal azotemia present. Monitor platelet counts; heme-onc checked
   HIT antibody earlier in admission and it was negative - suspicion for
   marrow involvement. Hemodynamically stable now.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2111-1-7**] 06:14 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2111-01-08 07:56:00 Physician Resident Progress Note
Chief Complaint: gib
   24 Hour Events:
   - EGD - Congestion and erythema in the first part of the duodenum
   compatible with duodenitis. No signs of bleeding were found.
   Otherwise normal EGD to second part of the duodenum
   Recommendations: PPI [**Hospital1 **].
   - Tagged rbc scan - negative
   - CBC 1800 22.5 > 24.8 > 24 > 23 > 29.3 s/p 2 U PRBC >28.3
   - CT Torso - 1. Progression of metastatic disease within the liver.
   2. Increased size of dominant pulmonary nodule, right hilar node and
   new medistinal node consistent with disease progression.
   - OMED - needs bm bx (Fellow deferred until [**1-8**])
   - Bowel prep at MN for planned colonoscopy in am. Pt will need to be
   transferred to the floor before she can be scoped.
   - roughly one bm per hr since starting prep; has not cleared
   - Platelets 18 with AMls > transfused 1 bag platlets
   - Wrote for 1 L NS given dehydration in setting of bowel prep
   - repleted k, mg
   - consider calling out before rounds
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No abd pain. No dizziness
   Flowsheet Data as of  [**2111-1-8**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 74 (72 - 87) bpm
   BP: 131/73(88) {92/44(56) - 153/86(101)} mmHg
   RR: 19 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    420 mL
                                                                  2,388 mL
   PO:
                                                                     60 mL
                                                                  2,250 mL
   TF:
   IVF:
                                                                     10 mL
                                                                    138 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    600 mL
                                                                    250 mL
   Urine:
                                                                    600 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                  2,138 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GEN: Alert and oriented in now acute distress, appropriate
   HEENT: OP clear with MMM
   CV: RRR no mgr
   Pulm: crackles at bases with occ rhonchi that clear in upper airways
   with cough
   Abd: soft NT, ND
   Ext: no edema, warm, 2+ pulses
   Neuro: non focal
   Labs / Radiology
   18 K/uL
   11.3 g/dL
   151 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.4 mEq/L
   39 mg/dL
   101 mEq/L
   133 mEq/L
   30.4 %
   13.8 K/uL
        [image002.jpg]
                             [**2111-1-6**]  06:12 AM
                             [**2111-1-6**]  12:50 PM
                            [**2111-1-7**]  05:45 AM
                            [**2111-1-7**]  07:09 AM
                            [**2111-1-7**]  06:46 PM
                            [**2111-1-7**]  09:46 PM
                            [**2111-1-8**]  03:39 AM
   WBC
   18.3
   16.7
   14.4
   13.0
   13.8
   Hct
   24.8
   24.1
   24.0
   23.0
   29.3
   28.3
   30.4
   Plt
   29
   19
   54
   43
   26
   20
   18
   Cr
   1.0
   1.0
   Glucose
   137
   151
   Other labs: PT / PTT / INR:13.1/17.5/1.1, ALT / AST:64/141, Alk Phos /
   T Bili:100/0.8, LDH:4350 IU/L, Ca++:10.1 mg/dL, Mg++:1.6 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 2713**] is a 66 year old female with a history of small cell lung
   cancer metastatic to brain and liver s/p whole brain XRT and one cycle
   of palliative chemotherapy with etoposide and cisplatin now with LGIB,
   ?TTP
   # Gastrointestinal Bleeding:
   - two large bore IVs
   - IV PPI [**Hospital1 **]
   - NPO in case requires endoscopic procedure
   - maintain HCT close to 25
   - IVF boluses for MAPs < 65 or UOP < 50 cc/hr
   - holding home antihypertensives currently
   .
   # TTP: may have subacute TTP, likely Cisplatin induced
   - given IV Dex, cont PO Dex
   - HemOnc to review smear in AM and d/w Dr. [**Last Name (STitle) 2735**]/Dr. [**First Name (STitle) **]
   - could have platelet abs -> Blood bank fellow to inform about tests to
   be ordered including Plt HLA abs; touchbase w/ blood bank on call in AM
   - try to maintain plts over 20
   - repeat plts in 1 hour to confirm rapid consumption
   .
   # Thrombocytopenia: could be combination of chemotherapy, and now TTP.
   Also concern for medication induced cause which prompted recent switch
   from dilantin to keppra.  She is not receiving heparin products
   currently and recently had negative HIT workup.  Concern that she may
   also have marrow involvement of her malignancy.
   - management as above
   - goal > 20
   - will need to consider bone marrow biopsy
   Leukocytosis:  No signs or symptoms of infection at present.
   - culture if spikes
   - no antibiotics
   - trend white blood cell count
   Small Cell Lung Cancer:  As above with known metastases to brain and
   liver diagnosed in [**2110-10-29**] s/p whole brain XRT and 1 cycle of
   palliative chemotherapy with etoposide and cisplatin.  She was
   scheduled to receive a second round of chemotherapy this week but this
   was deferred secondary to her thrombocytopenia.
   - continue dexamethasone 4 mg [**Hospital1 **]
   - continue keppra for seizure prophylaxis in the setting of known brain
   metastases
   Anxiety: Stable.
   - continue alprazolam QHS:PRN
   Hypertension:
   - holding home antihypertensives
   .
   Hyperglycemia: Glucose on chem 7 in ER elevated at 207.  Likely
   secondary to dexamethasone.
   - insulin sliding scale while in ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-7**] 06:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-01-08 11:04:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient received bowel prep for colonoscopy yesterday; stool was clear
   to maroon. Hct has been stable.
   Platelet count remains low.
   Hemodynamically stable.
   24 Hour Events:
 ENDOSCOPY - At [**2111-1-7**] 11:39 AM
 NUCLEAR MEDICINE - At [**2111-1-7**] 02:15 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   tylenol, alprazolam, decadron, insulin, kepra, ativan, maalox,
   magnesium sulfate, reglan, oxycodone, protonix, KCl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-8**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 64 (64 - 94) bpm
   BP: 145/68(89) {101/50(63) - 153/86(101)} mmHg
   RR: 24 (19 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    420 mL
                                                                  2,952 mL
   PO:
                                                                     60 mL
                                                                  2,250 mL
   TF:
   IVF:
                                                                     10 mL
                                                                    537 mL
   Blood products:
                                                                    350 mL
                                                                    165 mL
   Total out:
                                                                    600 mL
                                                                    250 mL
   Urine:
                                                                    600 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                  2,702 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI No(t) Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Few scattered rales, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: Right mid abdomen, No(t) Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   18 K/uL
   151 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.4 mEq/L
   39 mg/dL
   101 mEq/L
   133 mEq/L
   30.4 %
   13.8 K/uL
        [image002.jpg]
                             [**2111-1-6**]  06:12 AM
                             [**2111-1-6**]  12:50 PM
                            [**2111-1-7**]  05:45 AM
                            [**2111-1-7**]  07:09 AM
                            [**2111-1-7**]  06:46 PM
                            [**2111-1-7**]  09:46 PM
                            [**2111-1-8**]  03:39 AM
   WBC
   18.3
   16.7
   14.4
   13.0
   13.8
   Hct
   24.8
   24.1
   24.0
   23.0
   29.3
   28.3
   30.4
   Plt
   29
   19
   54
   43
   26
   20
   18
   Cr
   1.0
   1.0
   Glucose
   137
   151
   Other labs: PT / PTT / INR:13.1/17.5/1.1, ALT / AST:64/141, Alk Phos /
   T Bili:100/0.8, LDH:4350 IU/L, Ca++:10.1 mg/dL, Mg++:1.6 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ANEMIA
   THROMBOCYTOPENIA
   Patient has been hemodynamically stable. Hct stable throughout the day
   yesterday. Patient to get colonoscopy today.
   Platelet count remains low. Pateint had bone marrow bx today.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2111-1-7**] 06:14 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2111-01-09 06:47:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
   -.5mg Ativan in AM
   -Rec'd BM biopsy
   -4 bags platelets
   -Continues with bloody stool.
   -Cecal mass observed on colonoscopy; biopsy taken
   - 2 bm o/n
 one grossly bloody at [**2102**], one brown by g+ at 0400
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-1-8**] 08:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies abd pain, cp, lightheadedness. +cough
   Flowsheet Data as of  [**2111-1-9**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 66 (62 - 94) bpm
   BP: 155/74(95) {108/59(64) - 155/79(96)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,978 mL
                                                                     60 mL
   PO:
                                                                  2,510 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,110 mL
   Blood products:
                                                                    358 mL
   Total out:
                                                                    700 mL
                                                                    500 mL
   Urine:
                                                                    700 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,278 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   GEN: Alert and oriented in no acute distress, appropriate
   HEENT: OP clear with MMM
   CV: RRR no mgr
   Pulm: inspiratory wheeze RIGHT side, crackles Bilaterally
   Abd: soft NT, ND
   Ext: no edema, warm, 2+ pulses
   Neuro: non focal
   Labs / Radiology
   18 K/uL
   10.0 g/dL
   116 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   28 mg/dL
   104 mEq/L
   138 mEq/L
   27.1 %
   8.8 K/uL
        [image002.jpg]
                            [**2111-1-7**]  05:45 AM
                            [**2111-1-7**]  07:09 AM
                            [**2111-1-7**]  06:46 PM
                            [**2111-1-7**]  09:46 PM
                            [**2111-1-8**]  03:39 AM
                            [**2111-1-8**]  10:57 AM
                            [**2111-1-8**]  01:48 PM
                            [**2111-1-8**]  04:38 PM
                            [**2111-1-8**]  09:33 PM
                            [**2111-1-9**]  03:32 AM
   WBC
   14.4
   13.0
   13.8
   12.3
   8.8
   Hct
   24.0
   23.0
   29.3
   28.3
   30.4
   29.3
   25.6
   27.1
   27.1
   Plt
   54
   43
   26
   20
   18
   13
   39
   36
   18
   Cr
   1.0
   0.9
   Glucose
   151
   116
   Other labs: PT / PTT / INR:14.4/19.6/1.3, ALT / AST:64/141, Alk Phos /
   T Bili:100/0.8, Differential-Neuts:76.0 %, Band:3.0 %, Lymph:10.0 %,
   Mono:8.0 %, Eos:0.0 %, LDH:4350 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 2713**] is a 66 year old female with a history of small cell lung
   cancer metastatic to brain and liver s/p whole brain XRT and one cycle
   of palliative chemotherapy with etoposide and cisplatin now with LGIB,
   ?TTP
   .
   # Gastrointestinal Bleeding: Negative egd and tagged rbc scan.
   Colonoscopy positive for bleeding cecal mass, and bx performed [**1-9**].
   - two large bore IVs
   - transition to po ppi given less likel\y ugib
   - maintain HCT close to 25
   - IVF boluses for MAPs < 65 or UOP < 50 cc/hr
   - holding home antihypertensives currently
   - f/u pathology  and GI reccs
   .
   # TTP: may have subacute TTP, likely Cisplatin induced
   - given IV Dex, cont PO Dex
   - f/u hem/onc reccs
   - try to maintain plts over 20
   .
   # Thrombocytopenia: could be combination of chemotherapy, and now TTP.
   Also concern for medication induced cause which prompted recent switch
   from dilantin to keppra.  She is not receiving heparin products
   currently and recently had negative HIT workup.  Concern that she may
   also have marrow involvement of her malignancy.
   - management as above
   - one bag platelets
   - goal > 20
   - will need to consider bone marrow biopsy
   Leukocytosis:  No signs or symptoms of infection at present.
   - culture if spikes
   - no antibiotics
   - trend white blood cell count
   Small Cell Lung Cancer:  As above with known metastases to brain and
   liver diagnosed in [**2110-10-29**] s/p whole brain XRT and 1 cycle of
   palliative chemotherapy with etoposide and cisplatin.  She was
   scheduled to receive a second round of chemotherapy this week but this
   was deferred secondary to her thrombocytopenia.
   - continue dexamethasone 4 mg [**Hospital1 **]
   - continue keppra for seizure prophylaxis in the setting of known brain
   metastases
   - Albuterol prn q 6 h
   - nystatin s and s
   Anxiety: Stable.
   - continue alprazolam QHS:PRN
   Hypertension:
   - holding home antihypertensives
   .
   Hyperglycemia: Glucose on chem 7 in ER elevated at 207.  Likely
   secondary to dexamethasone.
   - insulin sliding scale while in ICU
   [**Hospital 2772**]
 transfer to medicine floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-1-7**] 06:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-01-09 10:36:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, metastatic lung ca, colonic mass
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Colonscopy yesterday revealed probably tumor mass in cecum. Biopsies
   taken. Patient with mild bleeding post bx. Transfused platelets; did
   not require PRBC's. Remained hemodynamically stable.
   24 Hour Events:
 COLONOSCOPY - At [**2111-1-8**] 11:50 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-1-8**] 08:00 PM
   Other medications:
   decadron, insulin, kepra, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-9**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 72 (62 - 91) bpm
   BP: 153/84(102) {119/59(64) - 162/92(102)} mmHg
   RR: 33 (15 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,978 mL
                                                                    246 mL
   PO:
                                                                  2,510 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,110 mL
   Blood products:
                                                                    358 mL
                                                                    186 mL
   Total out:
                                                                    700 mL
                                                                    850 mL
   Urine:
                                                                    700 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,278 mL
                                                                   -604 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : Rare, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: RLQ. No rebound
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   18 K/uL
   116 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   28 mg/dL
   104 mEq/L
   138 mEq/L
   27.1 %
   8.8 K/uL
        [image002.jpg]
                            [**2111-1-7**]  05:45 AM
                            [**2111-1-7**]  07:09 AM
                            [**2111-1-7**]  06:46 PM
                            [**2111-1-7**]  09:46 PM
                            [**2111-1-8**]  03:39 AM
                            [**2111-1-8**]  10:57 AM
                            [**2111-1-8**]  01:48 PM
                            [**2111-1-8**]  04:38 PM
                            [**2111-1-8**]  09:33 PM
                            [**2111-1-9**]  03:32 AM
   WBC
   14.4
   13.0
   13.8
   12.3
   8.8
   Hct
   24.0
   23.0
   29.3
   28.3
   30.4
   29.3
   25.6
   27.1
   27.1
   Plt
   54
   43
   26
   20
   18
   13
   39
   36
   18
   Cr
   1.0
   0.9
   Glucose
   151
   116
   Other labs: PT / PTT / INR:14.4/19.6/1.3, ALT / AST:64/141, Alk Phos /
   T Bili:100/0.8, Differential-Neuts:76.0 %, Band:3.0 %, Lymph:10.0 %,
   Mono:8.0 %, Eos:0.0 %, LDH:4350 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   ANEMIA
   THROMBOCYTOPENIA
   COLONIC MASS
   Hct has been stable without RBC transfusion for past 2 days. Continues
   to require platelet transfusions. Has been hemodynamically stable.
   Continues on Kepra and decadron for brain mets.
   Biopsies pending on colonic mass.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2111-1-7**] 06:14 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30